2105-10-18 07:14:00 Physician Resident Progress Note
Chief Complaint: respiratory distress
   24 Hour Events:
 RESPIRATORY ARREST - At [**2105-10-17**] 09:40 AM
   patient found to be in status epilepticus, respiratory arrest called on
   [**Hospital Ward Name 289**] 11.  transferred to TSICU post intubation
 INVASIVE VENTILATION - START [**2105-10-17**] 09:41 AM
 EEG - At [**2105-10-17**] 09:46 AM
   continuous EEG continued from floor
     * chest CT showed no PE. Patient with LLL atelectasis, mucous
       plugging
     * cannot have head CT b/c of EEG electrodes
     * patient hypotensive to 80's/40's. Given 2x 1L NS boluses, sedation
       lightened (propofol 60 ->40) -> BP improved
     * unasyn and vanc  for aspiration pneumonia
     * ABG w/respiratory alkalosis -> decreased Vt on vent from 600 to 500
   Allergies:
   No Known Drug Allergies
   Antibiotics:
   Vancomycin
   Unasyn
   Infusions:
   Propofol - 40 mcg/Kg/min
   Other ICU medications:
   Propofol - [**2105-10-17**] 09:34 AM
   Ranitidine (Prophylaxis) - [**2105-10-17**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2105-10-17**] 10:06 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Unable to obtain
   Flowsheet Data as of  [**2105-10-18**] 07:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.9
C (98.4
   HR: 86 (71 - 100) bpm
   BP: 118/43(61) {75/43(51) - 129/98(102)} mmHg
   RR: 21 (15 - 30) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 78.4 kg (admission): 77.5 kg
   Height: 70 Inch
             Total In:
                                                                  3,549 mL
                                                                  1,268 mL
   PO:
             TF:
   IVF:
                                                                  3,489 mL
                                                                    878 mL
   Blood products:
   Total out:
                                                                    645 mL
                                                                    920 mL
   Urine:
                                                                    645 mL
                                                                    770 mL
   NG:
   150 mL
   Stool:
   Drains:
   Balance:
                                                                  2,904 mL
                                                                    348 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 600) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 55%
   RSBI Deferred: No Spon Resp
   PIP: 23 cmH2O
   Plateau: 19 cmH2O
   Compliance: 35.7 cmH2O/mL
   SpO2: 94%
   ABG: 7.50/37/61/28/4 (6a)
   Ve: 10.1 L/min
   PaO2 / FiO2: 102
   Physical Examination
   General Appearance: Well nourished white male
   Eyes / Conjunctiva: PERRL, pupils sluggish but equal and reactive
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: bilaterally on inspiration)
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Responds to: Unresponsive, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   236 K/uL
   12.8 g/dL
   83 mg/dL
   0.8 mg/dL
   28 mEq/L
   3.1 mEq/L
   22 mg/dL
   103 mEq/L
   140 mEq/L
   35.2 %
   13.2 K/uL
        [image002.jpg]
                            [**2105-10-17**]  09:31 AM
                            [**2105-10-17**]  09:45 AM
                            [**2105-10-17**]  01:39 PM
                            [**2105-10-17**]  11:20 PM
                            [**2105-10-18**]  01:51 AM
                            [**2105-10-18**]  02:49 AM
                            [**2105-10-18**]  06:26 AM
   WBC
   22.6
   13.2
   Hct
   39.5
   35.2
   Plt
   290
   236
   Cr
   0.8
   0.8
   TropT
   <0.01
   <0.01
   <0.01
   TCO2
   31
   28
   30
   Glucose
   98
   103
   83
   Other labs: PT / PTT / INR:14.1/29.3/1.2, CK / CKMB /
   Troponin-T:62/3/<0.01, Differential-Neuts:81.4 %, Lymph:9.1 %, Mono:7.2
   %, Eos:1.7 %, Ca++:8.1 mg/dL, Mg++:2.1 mg/dL, PO4:2.4 mg/dL
   Micro: sputum gram stain: G+ cocci, G+ rods, G- rods
   Chest CT: LLL atelectasis, mucous plugging
   Assessment and Plan
   57 yo M with PMH of L MCA in [**2102**] with residual aphasia and R
   hemiparesis who was admitted for status epilepticus and transferred to
   the MICU for respiratory distress.
   .
   #1 respiratory distress: Most likely scenario is that he had
   respiratory distress from aspiration secondary to sedation from the
   large amount of ativan he received in 5 hours. He had copious
   secretions on admission to the ICU and pooling in his oral pharynx.
   Other differential diagnosis includes AMI (EKG does have flipped TW in
   V2-4 but 3 sets of CE negative), PE (at high risk but unlikely given
   hypoxia resolved now), infection (does have elevated WBC of 17 from
   admission and low grade fevers and the WBC rose acutely in the setting
   of distress which was likely stress reaction). No evidence for CHF or
   fluid overload.  WBC trending down.  Infection- urine culture this
   admission was negative. Although CXR does not suggest infection,
   patient w/rhoncorous breath sounds b/l and Hx and sputum gram stain
   suggestive of aspiration pneumonia.
   -unasyn, vancomycin for aspiration pneumonia
   -avoid antibiotics that lower seizure threshold (fluoroquinolones,
   Flagyl)
   -follow BCx, stool for C diff.
   -medication affect- hold standing ativan. Will need to continue all
   anti-seizure medications given status and note these are sedation.
   -suction aggressively
   .
   #2 ventilator dependent: On AC. ABG shows respiratory alkalosis.
   Decreased tidal volume, RR.  Due to high levels of propofol desired by
   neuro, needs to remain on CMT Assist.
   -re-check ABG, adjust ventilator settings accordingly
   .
   #3 status epilepticus: Cause appears to be unknown. His medications are
   currently being adjusted to control the seizures. Precipitant could be
   infection given elevated WBC on admission of 17, vs suboptimal
   medication regimen vs new acute neurologic event such as new stroke.
   -appreciate neurology continuing to follow
   -continuous EEG
   -infection- CXR and urine are clear. He does have possible thrush on
   exam. Check blood cultures, sputum cx, C diff and treat thrush with
   nystatin. Could consider LP but would do other work up first.
   #4 Hypotensive.  Likely due to propofol sedation and dehydration.
   Fluid responsive, but pressure really improved when propofol sedation
   decreased.  Difficult b/c propofol goals for MICU team and neuro are
   different (neuro using as an antiepileptic medicine vs for sedation for
   intubation)
   -NSS bolus PRN (pt w/out Hx of CHF)
   -d/w neuro sedation issue
 discuss treatment goals
   .
   #5 EKG changes: likely just demand ischemia. Enzymes negative. Has risk
   factors of tobacco, HTN, hyperlipidemia.
   -continue asa, statin, not on BB currently but was as outpatient.
   .
   # h/o stroke: L MCV s/p R hemiparesis and aphasia.
   -continue asa
   .
   # hyperlipidema: continue statin
   .
   # FEN: start tube feeds.  mIVF, monitor lytes, replete as needed.
   (hypokalemia repleted today)
   .
   # PPX: heparin SQ for DVT ppx, bowel reg, H2 blocker for GI ppx, VAP
   bundle.
   .
   # Code: full code
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2105-10-17**] 09:45 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2105-10-18 10:56:00 Physician Attending Progress Note
Chief Complaint: refractory seziures, respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 RESPIRATORY ARREST - At [**2105-10-17**] 09:40 AM
   patient found to be in status epilepticus, respiratory arrest called on
   [**Hospital Ward Name 289**] 11.  transferred to TSICU post intubation
 INVASIVE VENTILATION - START [**2105-10-17**] 09:41 AM
 EEG - At [**2105-10-17**] 09:46 AM
   continuous EEG continued from floor
   Pt tx to SICU from tSICU
   Resp alkalosis overnight so TV changed from 600 to 500cc
   Had some hypotension overnight when his propafol was increased which
   was fluid responsive.
   CT neg for PE but + [**Year (4 digits) 3634**] atelectasis PNA
 started on ABX
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2105-10-18**] 12:33 AM
   Metronidazole - [**2105-10-18**] 05:45 AM
   Vancomycin - [**2105-10-18**] 07:59 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2105-10-18**] 07:59 AM
   Ranitidine (Prophylaxis) - [**2105-10-18**] 07:59 AM
   Other medications:
   Keppra
   Trileptal
   Zantac
   Propopafol at 60 mcg
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2105-10-18**] 10:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.8
C (98.2
   HR: 83 (71 - 98) bpm
   BP: 137/77(88) {75/43(51) - 137/98(102)} mmHg
   RR: 19 (14 - 30) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 78.4 kg (admission): 77.5 kg
   Height: 70 Inch
             Total In:
                                                                  3,549 mL
                                                                  2,039 mL
   PO:
             TF:
   IVF:
                                                                  3,489 mL
                                                                  1,559 mL
   Blood products:
   Total out:
                                                                    645 mL
                                                                  1,455 mL
   Urine:
                                                                    645 mL
                                                                  1,305 mL
   NG:
   150 mL
   Stool:
   Drains:
   Balance:
                                                                  2,904 mL
                                                                    585 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 600) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 60%
   RSBI Deferred: No Spon Resp
   PIP: 19 cmH2O
   Plateau: 19 cmH2O
   Compliance: 35.7 cmH2O/mL
   SpO2: 100%
   ABG: 7.50/37/61/28/4
   Ve: 10.9 L/min
   PaO2 / FiO2: 102
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Respiratory / Chest:de creased BS left base but not bronchial, no
   wheezes
   Abd: soft NT +BS
   Skin:  Warm
   Neurologic: deeply sedated and unresponsive except to noxious stimuli
   Labs / Radiology
   12.8 g/dL
   236 K/uL
   83 mg/dL
   0.8 mg/dL
   28 mEq/L
   3.9 mEq/L
   22 mg/dL
   103 mEq/L
   140 mEq/L
   35.2 %
   13.2 K/uL
        [image002.jpg]
                            [**2105-10-17**]  09:31 AM
                            [**2105-10-17**]  09:45 AM
                            [**2105-10-17**]  01:39 PM
                            [**2105-10-17**]  11:20 PM
                            [**2105-10-18**]  01:51 AM
                            [**2105-10-18**]  02:49 AM
                            [**2105-10-18**]  06:26 AM
   WBC
   22.6
   13.2
   Hct
   39.5
   35.2
   Plt
   290
   236
   Cr
   0.8
   0.8
   TropT
   <0.01
   <0.01
   <0.01
   TCO2
   31
   28
   30
   Glucose
   98
   103
   83
   Other labs: PT / PTT / INR:14.1/29.3/1.2, CK / CKMB /
   Troponin-T:62/3/<0.01, Differential-Neuts:81.4 %, Lymph:9.1 %, Mono:7.2
   %, Eos:1.7 %, Ca++:8.1 mg/dL, Mg++:2.1 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 .H/O AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 .H/O ALTERED MENTAL STATUS (NOT DELIRIUM)
 .H/O SEIZURE, WITH STATUS EPILEPTICUS
   57 yr old man with CVA and refractory seizures was on Neuro where he
   had recurrent seizures, resp distress, intubated for airway protection
   and tx to ICU for management
   1. Resp Distress: aspiration PNA and atelectasis in the setting of
   refractory seizures and altered mental status. Work up for PE and
   cardiac ischemia negative. Vanco Unasyn, follow up sputum CX. Is on AC
   is light of heavy sedation, will try for PSV when can wean propafol.
   He does have a Pao2 lower than one might expect given relative small
   size of [**Name (NI) 3634**] infiltrate. It could explain some shunt but we will up his
   PEEP as he may be more atelectatic than we appreciate.
   2. Hypotension: fluid responsive
 occureed in setting of hypovolemia
   and high doses of propafol. Post IVF he now has beeter UOP. Will bolus
   prn, and cover empirically for asp PNA.
   2. Leukocytosis: resolving, likely stress response with recurrent SZ
   possible but need to pan culture, no empiric ABX at present
   3. Refractory SZ: uptitrate keppra, trileptal, Neuro team has been
   increasing propafol in an effort to achieve burst suppression and post
   IVF he has tolerating this AM but will need ongoing discussionas
   alternative AED may be needed. On   Continuous EEG, close Neuro follow
   up.
   Remaining issues per Housestaff -
   ICU Care
   Nutrition: start TFs
   Glycemic Control:  prn
   Lines:
   20 Gauge - [**2105-10-17**] 09:45 AM
   Prophylaxis:
   DVT: sc hep
   Stress ulcer: zantac
   VAP: chlorhex, HOB
   Comments:
   Communication:  with neice at bedside updated.
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2105-10-19 06:17:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Depakote increased, trough ordered
   - Propofol increased to 70 per neuro recs to suppress seizures
   - IVF boluses to support BP
   - Tube feeds started per nutrition consult recs
   - Peep increased to 8
   - ABGs
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2105-10-18**] 12:33 AM
   Metronidazole - [**2105-10-18**] 05:45 AM
   Vancomycin - [**2105-10-18**] 08:36 PM
   Ampicillin/Sulbactam (Unasyn) - [**2105-10-19**] 05:44 AM
   Infusions:
   Propofol - 70 mcg/Kg/min
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2105-10-18**] 07:59 AM
   Heparin Sodium (Prophylaxis) - [**2105-10-18**] 07:59 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2105-10-19**] 06:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.4
C (97.5
   HR: 71 (60 - 87) bpm
   BP: 109/53(66) {86/46(55) - 137/77(88)} mmHg
   RR: 14 (14 - 21) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 78.4 kg (admission): 77.5 kg
   Height: 70 Inch
             Total In:
                                                                  4,709 mL
                                                                  2,021 mL
   PO:
             TF:
                                                                    139 mL
                                                                    164 mL
   IVF:
                                                                  4,090 mL
                                                                  1,857 mL
   Blood products:
   Total out:
                                                                  2,500 mL
                                                                    320 mL
   Urine:
                                                                  2,350 mL
                                                                    320 mL
   NG:
                                                                    150 mL
   Stool:
   Drains:
   Balance:
                                                                  2,209 mL
                                                                  1,701 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 60%
   RSBI Deferred: FiO2 > 60%, No Spon Resp
   PIP: 23 cmH2O
   Plateau: 18 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 99%
   ABG: 7.46/42/108/28/5
   Ve: 7.1 L/min
   PaO2 / FiO2: 216
   Physical Examination
   General Appearance: Well nourished white male
   Eyes / Conjunctiva: PERRL, pupils sluggish but equal and reactive
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: bilaterally on inspiration)
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Responds to: Unresponsive, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   237 K/uL
   12.0 g/dL
   107 mg/dL
   0.6 mg/dL
   28 mEq/L
   3.4 mEq/L
   13 mg/dL
   110 mEq/L
   142 mEq/L
   33.6 %
   8.3 K/uL
        [image002.jpg]
                            [**2105-10-17**]  09:31 AM
                            [**2105-10-17**]  09:45 AM
                            [**2105-10-17**]  01:39 PM
                            [**2105-10-17**]  11:20 PM
                            [**2105-10-18**]  01:51 AM
                            [**2105-10-18**]  02:49 AM
                            [**2105-10-18**]  06:26 AM
                            [**2105-10-18**]  05:10 PM
                            [**2105-10-18**]  08:51 PM
                            [**2105-10-19**]  03:56 AM
   WBC
   22.6
   13.2
   8.3
   Hct
   39.5
   35.2
   33.6
   Plt
   290
   236
   237
   Cr
   0.8
   0.8
   0.7
   0.6
   TropT
   <0.01
   <0.01
   <0.01
   TCO2
   31
   28
   30
   31
   Glucose
   98
   103
   83
   89
   107
   Other labs: PT / PTT / INR:14.1/29.3/1.2, CK / CKMB /
   Troponin-T:62/3/<0.01, Differential-Neuts:81.4 %, Lymph:9.1 %, Mono:7.2
   %, Eos:1.7 %, Ca++:7.8 mg/dL, Mg++:2.1 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   57 yo M with PMH of L MCA in [**2102**] with residual aphasia and R
   hemiparesis who was admitted for status epilepticus and transferred to
   the MICU for respiratory distress.
   .
   #1 respiratory distress: Most likely scenario is that he had
   respiratory distress from aspiration secondary to sedation from the
   large amount of ativan he received in 5 hours. He had copious
   secretions on admission to the ICU and pooling in his oral pharynx.
   Other differential diagnosis includes AMI (EKG does have flipped TW in
   V2-4 but 3 sets of CE negative), PE (at high risk but unlikely given
   hypoxia resolved now), infection (does have elevated WBC of 17 from
   admission and low grade fevers and the WBC rose acutely in the setting
   of distress which was likely stress reaction). No evidence for CHF or
   fluid overload.  WBC trending down.  Infection- urine culture this
   admission was negative. Although CXR does not suggest infection,
   patient w/rhoncorous breath sounds b/l and Hx and sputum gram stain
   suggestive of aspiration pneumonia.
   -unasyn, vancomycin for aspiration pneumonia
   -avoid antibiotics that lower seizure threshold (fluoroquinolones,
   Flagyl)
   -follow BCx, stool for C diff.
   -medication affect- hold standing ativan. Will need to continue all
   anti-seizure medications given status and note these are sedation.
   -suction aggressively
   .
   #2 ventilator dependent: On AC. ABG shows respiratory alkalosis.
   Decreased tidal volume, RR.  Due to high levels of propofol desired by
   neuro, needs to remain on CMT Assist.
   -re-check ABG, adjust ventilator settings accordingly
   .
   #3 status epilepticus: Cause appears to be unknown. His medications are
   currently being adjusted to control the seizures. Precipitant could be
   infection given elevated WBC on admission of 17, vs suboptimal
   medication regimen vs new acute neurologic event such as new stroke.
   -appreciate neurology continuing to follow
   -continuous EEG
   -infection- CXR and urine are clear. He does have possible thrush on
   exam. Check blood cultures, sputum cx, C diff and treat thrush with
   nystatin. Could consider LP but would do other work up first.
   #4 Hypotensive.  Likely due to propofol sedation and dehydration.
   Fluid responsive, but pressure really improved when propofol sedation
   decreased.  Difficult b/c propofol goals for MICU team and neuro are
   different (neuro using as an antiepileptic medicine vs for sedation for
   intubation)
   -NSS bolus PRN (pt w/out Hx of CHF)
   -d/w neuro sedation issue
 discuss treatment goals
   .
   #5 EKG changes: likely just demand ischemia. Enzymes negative. Has risk
   factors of tobacco, HTN, hyperlipidemia.
   -continue asa, statin, not on BB currently but was as outpatient.
   .
   # h/o stroke: L MCV s/p R hemiparesis and aphasia.
   -continue asa
   .
   # hyperlipidema: continue statin
   .
   # FEN: start tube feeds.  mIVF, monitor lytes, replete as needed.
   (hypokalemia repleted today)
   .
   # PPX: heparin SQ for DVT ppx, bowel reg, H2 blocker for GI ppx, VAP
   bundle.
   .
   # Code: full code
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2105-10-19**] 04:06 AM 30 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2105-10-17**] 09:45 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2105-10-19 11:49:00 Physician Attending Progress Note
Chief Complaint: Status Epilepticus
   Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Propofol for sedation
   EEG ongoing
   Some hypotension with increased sedation with IVF responsivness
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2105-10-18**] 12:33 AM
   Metronidazole - [**2105-10-18**] 05:45 AM
   Vancomycin - [**2105-10-19**] 08:15 AM
   Ampicillin/Sulbactam (Unasyn) - [**2105-10-19**] 11:00 AM
   Infusions:
   Propofol - 70 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Nutritional Support: Tube feeds
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Flowsheet Data as of  [**2105-10-19**] 11:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.6
C (97.9
   HR: 63 (60 - 84) bpm
   BP: 104/49(63) {86/46(55) - 135/65(80)} mmHg
   RR: 14 (14 - 17) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 78.4 kg (admission): 77.5 kg
   Height: 70 Inch
             Total In:
                                                                  4,709 mL
                                                                  3,699 mL
   PO:
             TF:
                                                                    139 mL
                                                                    373 mL
   IVF:
                                                                  4,090 mL
                                                                  2,916 mL
   Blood products:
   Total out:
                                                                  2,500 mL
                                                                  1,190 mL
   Urine:
                                                                  2,350 mL
                                                                  1,190 mL
   NG:
                                                                    150 mL
   Stool:
   Drains:
   Balance:
                                                                  2,209 mL
                                                                  2,509 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: FiO2 > 60%, No Spon Resp
   PIP: 24 cmH2O
   Plateau: 21 cmH2O
   Compliance: 38.5 cmH2O/mL
   SpO2: 100%
   ABG: 7.46/42/108/28/5
   Ve: 7.1 L/min
   PaO2 / FiO2: 216
   Physical Examination
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: )
   Abdominal: Soft, Non-tender
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Unresponsive, Movement: Not assessed, Sedated,
   Tone: Not assessed
Patient with minimal responsivness
he has pupils
   that are equal and very slowly reactive
   Labs / Radiology
   12.0 g/dL
   237 K/uL
   107 mg/dL
   0.6 mg/dL
   28 mEq/L
   3.4 mEq/L
   13 mg/dL
   110 mEq/L
   142 mEq/L
   33.6 %
   8.3 K/uL
        [image002.jpg]
                            [**2105-10-17**]  09:31 AM
                            [**2105-10-17**]  09:45 AM
                            [**2105-10-17**]  01:39 PM
                            [**2105-10-17**]  11:20 PM
                            [**2105-10-18**]  01:51 AM
                            [**2105-10-18**]  02:49 AM
                            [**2105-10-18**]  06:26 AM
                            [**2105-10-18**]  05:10 PM
                            [**2105-10-18**]  08:51 PM
                            [**2105-10-19**]  03:56 AM
   WBC
   22.6
   13.2
   8.3
   Hct
   39.5
   35.2
   33.6
   Plt
   290
   236
   237
   Cr
   0.8
   0.8
   0.7
   0.6
   TropT
   <0.01
   <0.01
   <0.01
   TCO2
   31
   28
   30
   31
   Glucose
   98
   103
   83
   89
   107
   Other labs: PT / PTT / INR:14.1/29.3/1.2, CK / CKMB /
   Troponin-T:62/3/<0.01, Differential-Neuts:81.4 %, Lymph:9.1 %, Mono:7.2
   %, Eos:1.7 %, Ca++:7.8 mg/dL, Mg++:2.1 mg/dL, PO4:2.7 mg/dL
   Fluid analysis / Other labs: VPA=86
   Assessment and Plan
   57 yo male with history of CVA now admitted with status epilepticus and
   respiratory failure with likely aspiration event triggering need for
   intubation in the setting of management of seizures with
   benzodiazepines.
   1)Respiratory Failure-
   -Continue with A/C Suppport
   -Sputum sent for GS C+S and will need follow up for GNRs' in sputum
   -CTA negative
   -Vanco/Unasyn-continue for 10 day course
   2)Status Epilepticus-
   -Depakote
   -Keppra
   -Trileptal
   -Propofol
   -He has minimal responsiveness but does have pupils reactive
   -Wean of propofol to be guided by neurology
   -Will review underlying evaluation for source of status and will
   discuss with neurology balance of interruption of ongoing Rx for
   further evaluation.
 HYPOTENSION (NOT SHOCK)
 .H/O AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 .H/O ALTERED MENTAL STATUS (NOT DELIRIUM)
 .H/O SEIZURE, WITH STATUS EPILEPTICUS
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2105-10-19**] 10:58 AM 40 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2105-10-17**] 09:45 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2105-10-20 06:09:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Central line attempted in R subclavian, unsuccessful - RIJ placed
   LP attempted and unsuccessful - neuro to try in AM
   Propofol increased to 90, then 100, then 110 mcg/kg/min per neurology
   recommendations.  Checking LFTs and triglycerides in AM.
   Got 1L NS, then started on Levophed which has been titrated for urine
   output.
   Acyclovir started
   Hypernatremic in AM
 stopped NS fluids
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2105-10-18**] 12:33 AM
   Metronidazole - [**2105-10-18**] 05:45 AM
   Vancomycin - [**2105-10-19**] 08:00 PM
   Ampicillin/Sulbactam (Unasyn) - [**2105-10-19**] 11:30 PM
   Acyclovir - [**2105-10-20**] 12:31 AM
   Infusions:
   Norepinephrine - 0.04 mcg/Kg/min
   Propofol - 100 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2105-10-20**] 06:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 35.4
C (95.8
   HR: 57 (53 - 83) bpm
   BP: 111/54(68) {79/38(48) - 147/64(79)} mmHg
   RR: 14 (14 - 20) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 78.4 kg (admission): 77.5 kg
   Height: 70 Inch
    CVP: 12 (8 - 12)mmHg
   CO/CI (Fick): (#Type mismatch: '[string: "#Division by zero#"]'# L/min)
   / (#Type mismatch: '[string: "#Type mismatch: '[st"]'# L/min/m2)
   Mixed Venous O2% Sat: 95 - 95
   Total In:
                                                                  7,194 mL
                                                                  2,495 mL
   PO:
   TF:
                                                                    539 mL
                                                                    227 mL
   IVF:
                                                                  6,046 mL
                                                                  2,168 mL
   Blood products:
   Total out:
                                                                  1,890 mL
                                                                    805 mL
   Urine:
                                                                  1,890 mL
                                                                    805 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,304 mL
                                                                  1,690 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: Neuromusc Block
   PIP: 24 cmH2O
   Plateau: 21 cmH2O
   Compliance: 38.5 cmH2O/mL
   SpO2: 97%
   ABG: ///28/
   Ve: 7.3 L/min
   Physical Examination
   General Appearance: Well nourished white male
   Eyes / Conjunctiva: PERRL, pupils sluggish but equal and reactive
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: bilaterally on inspiration)
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Responds to: Unresponsive, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   267 K/uL
   11.8 g/dL
   111 mg/dL
   0.5 mg/dL
   28 mEq/L
   3.5 mEq/L
   9 mg/dL
   117 mEq/L
   149 mEq/L
   33.5 %
   9.9 K/uL
        [image002.jpg]
                            [**2105-10-17**]  09:45 AM
                            [**2105-10-17**]  01:39 PM
                            [**2105-10-17**]  11:20 PM
                            [**2105-10-18**]  01:51 AM
                            [**2105-10-18**]  02:49 AM
                            [**2105-10-18**]  06:26 AM
                            [**2105-10-18**]  05:10 PM
                            [**2105-10-18**]  08:51 PM
                            [**2105-10-19**]  03:56 AM
                            [**2105-10-20**]  02:32 AM
   WBC
   13.2
   8.3
   9.9
   Hct
   35.2
   33.6
   33.5
   Plt
   [**Telephone/Fax (3) 3682**]
   Cr
   0.8
   0.7
   0.6
   0.5
   TropT
   <0.01
   <0.01
   TCO2
   31
   28
   30
   31
   Glucose
   103
   83
   89
   107
   111
   Other labs: PT / PTT / INR:14.1/29.3/1.2, CK / CKMB /
   Troponin-T:62/3/<0.01, ALT / AST:25/33, Alk Phos / T Bili:53/0.4,
   Amylase / Lipase:29/18, Differential-Neuts:81.4 %, Lymph:9.1 %,
   Mono:7.2 %, Eos:1.7 %, Lactic Acid:0.9 mmol/L, LDH:171 IU/L, Ca++:7.8
   mg/dL, Mg++:2.0 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   57 yo M with PMH of L MCA in [**2102**] with residual aphasia and R
   hemiparesis who was admitted for status epilepticus and transferred to
   the MICU for respiratory distress.
   .
   1. Seizures/status epilepticus: Unknown cause. Concern for infection
   vs. subtherapeutic medications vs. new neurologic event (new stroke).
   Pt on Depakote and Trilepta.  Trilepta increased yesterday.  On
   Propofol gtt as per neuro recs with Levophed for BP support.
   - f/u with neurology regarding propofol and proper seizure management
   - LP today as arranged by neurology
   - MRI after EEG as per neuro
   - continue Trilepta at new dosing, also Depakote
   - Acyclovir started for ?HSV, awaiting LP
   - continuous EEG
   - continue to monitor LFTs, triglycerides with Propofol
   .
   2. Hypoxic Respiratory Failure: Likely multifactorial with aspiration
   PNA and sedation.  Also seizures can be contributing to mental status
   changes and increased risk of aspiration.  CXR and sputum is concerning
   for aspiration and sputum is growing GNRs.  No evidence of PE or CHF.
   Blood & urine cultures negative thus far.
   -Continue Vancomycin (d #1 = [**2105-10-18**]), change Unasyn to Zosyn (d# 1
   today [**2105-10-20**]) to cover for pseudomonas.
   - Continue to follow sputum speciation
   -avoid antibiotics that lower seizure threshold (fluoroquinolones,
   Flagyl)
   -follow BCx, stool for C diff.
   -medication effect- hold standing ativan. Will need to continue all
   anti-seizure medications given status and note these are sedation.
   -suction aggressively
   .
   3. Hypotension.  Likely due to propofol sedation.  Pt was adequately
   fluid resuscitated with CVP 12 this morning and CXR looking more fluid
   overloaded.  Propofol increased overnight with Levophed for BP
   support.
   - continue Levophed with these high doses of Propofol
   - hold further fluid boluses for now given adequate fluid status and
   likely overloaded
   4. Bradycardia: Likely related to Propofol.
   - Levophed should improve bradycardia
   .
   5. EKG changes: likely demand ischemia. Enzymes negative. Has risk
   factors of tobacco, HTN, hyperlipidemia.
   -continue asa, statin, not on BB currently but was as outpatient.
   .
   6. h/o stroke: L MCV s/p R hemiparesis and aphasia.
   -continue asa
   .
   7. hyperlipidema: continue statin
   .
   8. FEN: Tube feeds per nutrition recs; maintenance IVF, monitor lytes,
   replete as needed.
   .
   9. PPX: heparin SQ for DVT ppx, bowel reg, H2 blocker for GI ppx, VAP
   bundle.
   .
   10. Dispo: ICU level of care
   .
   11. Code: full code
   .
   12. Communication: Concern from patient
s sister that the patient
s son
   is feeling overwhelmed.  SW & case management consults requested to
   help with family coping & assistance with dispo planning post
   hospitalization.  Plan for family meeting at 5pm today.  Family will be
   contact[**Name (NI) **] to discuss.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2105-10-20**] 02:13 AM 30 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2105-10-17**] 09:45 AM
   Multi Lumen - [**2105-10-19**] 06:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2105-10-20 10:09:00 Physician Attending Progress Note
Chief Complaint: Status Epilepticus
   Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 MULTI LUMEN - START [**2105-10-19**] 06:00 PM
 LUMBAR PUNCTURE - At [**2105-10-19**] 08:39 PM
   -Patient with increasing doses of Propofol to try to minimize PLED
   activity.
   -CVL placed without event yesterday
   -LP attempted and unable to complete
   -Levophed required for support of blood pressure
   -Acyclovir started for possible viral meningitis
   History obtained from Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2105-10-18**] 12:33 AM
   Metronidazole - [**2105-10-18**] 05:45 AM
   Ampicillin/Sulbactam (Unasyn) - [**2105-10-20**] 06:00 AM
   Vancomycin - [**2105-10-20**] 08:00 AM
   Acyclovir - [**2105-10-20**] 08:02 AM
   Infusions:
   Norepinephrine - 0.04 mcg/Kg/min
   Propofol - 110 mcg/Kg/min
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2105-10-20**] 08:14 AM
   Heparin Sodium (Prophylaxis) - [**2105-10-20**] 08:14 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Genitourinary: Foley
   Signs or concerns for abuse : No
   Flowsheet Data as of  [**2105-10-20**] 10:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 35.6
C (96.1
   HR: 60 (53 - 83) bpm
   BP: 108/52(66) {79/38(48) - 147/73(79)} mmHg
   RR: 14 (14 - 20) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 78.4 kg (admission): 77.5 kg
   Height: 70 Inch
   CVP: 12 (8 - 12)mmHg
   CO/CI (Fick): (#Type mismatch: '[string: "#Division by zero#"]'# L/min)
   / (#Type mismatch: '[string: "#Type mismatch: '[st"]'# L/min/m2)
   Mixed Venous O2% Sat: 95 - 95
   Total In:
                                                                  7,194 mL
                                                                  3,677 mL
   PO:
   TF:
                                                                    539 mL
                                                                    477 mL
   IVF:
                                                                  6,046 mL
                                                                  2,950 mL
   Blood products:
   Total out:
                                                                  1,890 mL
                                                                  1,145 mL
   Urine:
                                                                  1,890 mL
                                                                  1,145 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,304 mL
                                                                  2,532 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: Neuromusc Block
   PIP: 23 cmH2O
   Plateau: 17 cmH2O
   Compliance: 71.4 cmH2O/mL
   SpO2: 98%
   ABG: 7.40/45/77/28/1
   Ve: 6.8 L/min
   PaO2 / FiO2: 154
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Unresponsive, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   11.8 g/dL
   267 K/uL
   111 mg/dL
   0.5 mg/dL
   28 mEq/L
   3.5 mEq/L
   9 mg/dL
   117 mEq/L
   149 mEq/L
   33.5 %
   9.9 K/uL
        [image002.jpg]
                            [**2105-10-17**]  01:39 PM
                            [**2105-10-17**]  11:20 PM
                            [**2105-10-18**]  01:51 AM
                            [**2105-10-18**]  02:49 AM
                            [**2105-10-18**]  06:26 AM
                            [**2105-10-18**]  05:10 PM
                            [**2105-10-18**]  08:51 PM
                            [**2105-10-19**]  03:56 AM
                            [**2105-10-20**]  02:32 AM
                            [**2105-10-20**]  07:43 AM
   WBC
   13.2
   8.3
   9.9
   Hct
   35.2
   33.6
   33.5
   Plt
   [**Telephone/Fax (3) 3682**]
   Cr
   0.8
   0.7
   0.6
   0.5
   TropT
   <0.01
   <0.01
   TCO2
   28
   30
   31
   29
   Glucose
   83
   89
   107
   111
   Other labs: PT / PTT / INR:14.1/29.3/1.2, CK / CKMB /
   Troponin-T:62/3/<0.01, ALT / AST:25/33, Alk Phos / T Bili:53/0.4,
   Amylase / Lipase:29/18, Differential-Neuts:81.4 %, Lymph:9.1 %,
   Mono:7.2 %, Eos:1.7 %, Lactic Acid:0.9 mmol/L, LDH:171 IU/L, Ca++:7.8
   mg/dL, Mg++:2.0 mg/dL, PO4:2.8 mg/dL
   Imaging: CXR--ETT OK, CVL OK, no PTX, small bilateral effusions
   Assessment and Plan
   57 yo male with history of CVA now admit with status epilepticus and
   requiring intubation and medication induced coma to break ongoing
   seizure activity.  This has been of limited beneift in terms of PLED
   activity persisting despite escalating doses of Propofol.
   1)Status Epilepticus-This persists despite increasing doses of Propofol
   and the trigger remains to be defined
   -Acyclovir in place
   -LP by Neuro team today as we were unsuccessful
   -Will need to move to Pentobarbitol as [**Doctor Last Name **] if activity persists and
   will utilize guidance from the Neurology team
   -Trileptal continuing
   -Depakote continuing
   -Will need to consider alternative [**Doctor Last Name **] to allow suppression of
   seizure activity
   -Will need a CNS image as soon as possible
   -Further propofol increase will be limited by both hypotension and
   bradycardia now present.
   2)Respiratory Failure-
   -Continue with A/C support with PEEP titration for hypoxemia
   -Patient with excellent tolerance of BP support
   -GNR's seen in sputum on gram stain
Unasyn/Vanco to change to
   Vanco/Zosyn
   3)Hypotension-
   -Likely a combination of medication effects and transient hypovolemia
   which is now resolved
   -Monitor for fever and will continue to support with pressors as
   needed.
 HYPOTENSION (NOT SHOCK)
 .H/O AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 .H/O ALTERED MENTAL STATUS (NOT DELIRIUM)
 .H/O SEIZURE, WITH STATUS EPILEPTICUS
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2105-10-20**] 07:39 AM 30 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2105-10-17**] 09:45 AM
   Multi Lumen - [**2105-10-19**] 06:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes

2105-10-21 06:46:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - acute episode of desaturation to 90's after Dilantin load given:
   increased FiO2 to 60% and patient slowly increased sats to 95-97% ->
   CXR negative for acute change
   - family late for meeting but was able to talk to Dr [**Last Name (STitle) 3626**] on phone
   - LP not done - Dr [**Last Name (STitle) 3626**] to be in house tomorrow afternoon if needed for
   help with LP
   - For MRI in next few days with MRI-safe EEG electrodes
   - Unsuccessful A-line attempt.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2105-10-20**] 06:00 AM
   Vancomycin - [**2105-10-20**] 08:00 PM
   Acyclovir - [**2105-10-21**] 12:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2105-10-21**] 04:00 AM
   Infusions:
   Norepinephrine - 0.09 mcg/Kg/min
   Propofol - 110 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2105-10-20**] 08:00 PM
   Ranitidine (Prophylaxis) - [**2105-10-20**] 08:00 PM
   Dilantin - [**2105-10-21**] 02:19 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2105-10-21**] 06:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 36.2
C (97.1
   HR: 69 (54 - 69) bpm
   BP: 115/52(66) {88/41(51) - 158/58(82)} mmHg
   RR: 16 (14 - 21) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 78.4 kg (admission): 77.5 kg
   Height: 70 Inch
    CVP: 11 (10 - 296)mmHg
   Total In:
                                                                  6,592 mL
                                                                  1,033 mL
   PO:
   TF:
                                                                    924 mL
                                                                    209 mL
   IVF:
                                                                  5,418 mL
                                                                    824 mL
   Blood products:
   Total out:
                                                                  1,784 mL
                                                                    365 mL
   Urine:
                                                                  1,784 mL
                                                                    365 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,808 mL
                                                                    668 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 27 cmH2O
   Plateau: 24 cmH2O
   Compliance: 35.7 cmH2O/mL
   SpO2: 95%
   ABG: 7.40/42/80.[**Numeric Identifier 176**]/27/0
   Ve: 7.2 L/min
   PaO2 / FiO2: 133
   Physical Examination
   General Appearance: Well nourished white male, sedated
   Eyes / Conjunctiva: PERRL, pupils sluggish but equal and reactive
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: bilaterally on inspiration)
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Responds to: Unresponsive, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   313 K/uL
   12.4 g/dL
   133 mg/dL
   0.7 mg/dL
   27 mEq/L
   4.3 mEq/L
   10 mg/dL
   111 mEq/L
   144 mEq/L
   36.2 %
   10.9 K/uL
        [image002.jpg]
                            [**2105-10-18**]  06:26 AM
                            [**2105-10-18**]  05:10 PM
                            [**2105-10-18**]  08:51 PM
                            [**2105-10-19**]  03:56 AM
                            [**2105-10-20**]  02:32 AM
                            [**2105-10-20**]  07:43 AM
                            [**2105-10-20**]  04:30 PM
                            [**2105-10-20**]  04:50 PM
                            [**2105-10-20**]  10:00 PM
                            [**2105-10-21**]  04:57 AM
   WBC
   8.3
   9.9
   10.9
   Hct
   33.6
   33.5
   36.2
   Plt
   237
   267
   313
   Cr
   0.7
   0.6
   0.5
   0.7
   0.7
   TCO2
   30
   31
   29
   27
   Glucose
   89
   107
   111
   132
   196
   133
   Other labs: PT / PTT / INR:14.1/29.3/1.2, CK / CKMB /
   Troponin-T:62/3/<0.01, ALT / AST:66/70, Alk Phos / T Bili:59/0.7,
   Amylase / Lipase:29/18, Differential-Neuts:77.5 %, Lymph:9.6 %,
   Mono:7.9 %, Eos:4.8 %, Lactic Acid:0.9 mmol/L, LDH:195 IU/L, Ca++:8.2
   mg/dL, Mg++:2.1 mg/dL, PO4:3.1 mg/dL;  TG 144 yesterday, 241 today.
   Sputum: GNRs = E. coli, pan-sensitive
   Assessment and Plan
   57 yo M with PMH of L MCA in [**2102**] with residual aphasia and R
   hemiparesis who was admitted for status epilepticus and transferred to
   the MICU for respiratory distress.
   .
   1. Seizures/status epilepticus: Unknown cause. Concern for infection
   vs. subtherapeutic medications vs. new neurologic event (new stroke).
   Patient on Depakote, Trileptal, Kepra, Phenytoin, and Propofol gtt as
   per neuro recs with Levophed for BP support.  Concern for increasing
   LFTs and triglycerides on propofol.  Neurology unsuccessful with LP
   attempt today.  Per neurology patient cannot have his EEG leads removed
   and thus cannot have an MRI scan at present.
   - f/u with neurology regarding propofol and proper seizure management
   - continuous EEG
   - MRI when able per neuro
   - Continue acyclovir for ?HSV, as unable to obtain LP
   - Vanco & ceftriaxone for bacterial meningitis, unlikely, but unable to
   rule out without LP data.
   - continue to monitor LFTs & triglycerides with Propofol
   .
   2. Hypoxic Respiratory Failure: Likely multifactorial with aspiration
   PNA and sedation.  Also seizures can be contributing to mental status
   changes and increased risk of aspiration.  CXR and sputum is concerning
   for aspiration and sputum is growing pan-sensitive E. coli.  No
   evidence of PE or CHF.  Blood & urine cultures negative thus far.
   -Continue Vancomycin (d #1 = [**2105-10-18**])
   - Change zosyn to ceftriaxone
 will treat both E. coli in sputum &
   possible bacterial meningitis.  (d/c Zosyn)
   -avoid antibiotics that lower seizure threshold (fluoroquinolones,
   Flagyl)
   -follow BCx, stool for C diff.
   -medication effect- hold standing ativan. Will need to continue all
   anti-seizure medications given status and note these are sedation.
   -suction aggressively
   .
   3. Hypotension.  Likely due to propofol sedation.  Pt was adequately
   fluid resuscitated with IVFand is total body volume overloaded
   currently.
   - continue Levophed with these high doses of Propofol
   - hold further fluid boluses for now given adequate fluid status and
   likely overloaded
   .
   4. Bradycardia: Likely related to Propofol.
   - improved with Levophed
   .
   5. EKG changes: likely demand ischemia. Enzymes negative. Has risk
   factors of tobacco, HTN, hyperlipidemia.
   -continue asa, statin, not on BB currently but was as outpatient.
   .
   6. h/o stroke: L MCV s/p R hemiparesis and aphasia.
   -continue asa
   .
   7. hyperlipidema: continue statin
   .
   8. FEN: Tube feeds per nutrition recs; maintenance IVF, monitor lytes,
   replete as needed.
   .
   9. PPX: heparin SQ for DVT ppx, bowel reg (increased), H2 blocker for
   GI ppx, VAP bundle.
   .
   10. Dispo: ICU level of care
   .
   11. Code: full code
   .
   12. Communication: Concern from patient
s sister that the patient
s son
   is feeling overwhelmed.  SW & case management consults requested to
   help with family coping & assistance with dispo planning post
   hospitalization.  Plan for family meeting at 5pm today.  Family will be
   contact[**Name (NI) **] to discuss.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2105-10-21**] 02:12 AM 30 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2105-10-17**] 09:45 AM
   Multi Lumen - [**2105-10-19**] 06:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2105-10-21 12:20:00 Physician Attending Progress Note
Chief Complaint: Status Epilepticus
   Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   -Patient with increasing doses of Propofol over yesterday
   -He has pan sensitive E. Coli from sputum
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2105-10-20**] 06:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2105-10-21**] 04:00 AM
   Vancomycin - [**2105-10-21**] 08:32 AM
   Acyclovir - [**2105-10-21**] 09:10 AM
   Infusions:
   Norepinephrine - 0.12 mcg/Kg/min
   Other ICU medications:
   Dilantin - [**2105-10-21**] 02:19 AM
   Ranitidine (Prophylaxis) - [**2105-10-21**] 08:33 AM
   Heparin Sodium (Prophylaxis) - [**2105-10-21**] 08:33 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2105-10-21**] 12:12 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.3
C (99.1
   HR: 76 (54 - 80) bpm
   BP: 107/47(61) {88/41(51) - 158/58(82)} mmHg
   RR: 20 (14 - 21) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 78.4 kg (admission): 77.5 kg
   Height: 70 Inch
   CVP: 19 (11 - 296)mmHg
   Total In:
                                                                  6,592 mL
                                                                  1,990 mL
   PO:
   TF:
                                                                    924 mL
                                                                    370 mL
   IVF:
                                                                  5,418 mL
                                                                  1,620 mL
   Blood products:
   Total out:
                                                                  1,784 mL
                                                                    480 mL
   Urine:
                                                                  1,784 mL
                                                                    480 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,808 mL
                                                                  1,510 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 5
   PEEP: 10 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 27 cmH2O
   Plateau: 23 cmH2O
   Compliance: 41.7 cmH2O/mL
   SpO2: 94%
   ABG: 7.40/42/80.[**Numeric Identifier 176**]/27/0
   Ve: 10.5 L/min
   PaO2 / FiO2: 133
   Physical Examination
   General Appearance: Overweight / Obese
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Unresponsive, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   12.4 g/dL
   313 K/uL
   133 mg/dL
   0.7 mg/dL
   27 mEq/L
   4.3 mEq/L
   10 mg/dL
   111 mEq/L
   144 mEq/L
   36.2 %
   10.9 K/uL
        [image002.jpg]
                            [**2105-10-18**]  06:26 AM
                            [**2105-10-18**]  05:10 PM
                            [**2105-10-18**]  08:51 PM
                            [**2105-10-19**]  03:56 AM
                            [**2105-10-20**]  02:32 AM
                            [**2105-10-20**]  07:43 AM
                            [**2105-10-20**]  04:30 PM
                            [**2105-10-20**]  04:50 PM
                            [**2105-10-20**]  10:00 PM
                            [**2105-10-21**]  04:57 AM
   WBC
   8.3
   9.9
   10.9
   Hct
   33.6
   33.5
   36.2
   Plt
   237
   267
   313
   Cr
   0.7
   0.6
   0.5
   0.7
   0.7
   TCO2
   30
   31
   29
   27
   Glucose
   89
   107
   111
   132
   196
   133
   Other labs: PT / PTT / INR:14.1/29.3/1.2, CK / CKMB /
   Troponin-T:62/3/<0.01, ALT / AST:66/70, Alk Phos / T Bili:59/0.7,
   Amylase / Lipase:29/18, Differential-Neuts:77.5 %, Lymph:9.6 %,
   Mono:7.9 %, Eos:4.8 %, Lactic Acid:0.9 mmol/L, LDH:195 IU/L, Ca++:8.2
   mg/dL, Mg++:2.1 mg/dL, PO4:3.1 mg/dL
   Fluid analysis / Other labs: 7.4/42/80/27
   Assessment and Plan
   57 yo male with history of CVA now with presentation with status
   epilepticus and with subsequent respiratory failure in the setting of
   airway protection needed as escalating doses of sedating medications
   are used to attempt to control seizure activity.
   1)Status Epilepticus-
   -Dilantin added
   -Dr. [**Last Name (STitle) 3738**] to perform LP today, was deferred by Neuro yesterday after
   MICU team failed to obtain fluid on [**2105-10-19**] despite mulitple attempts.
   -Keppra
   -Trileptal
   -Depakote
   -Acyclovir all per neurology input
   -Will look to neurology recommendations in regards to future
   interventions and treatments given EEG findings today.
   2)Respiratory Failure-Patient with transient hypoxemia yesterday--this
   was in the setting of continued positive fluid balance and persistent
   seizure activity.  This may well be evolution of persistent
   non-hydrostatic pulmonary edema as well as pleural effusions.  He will
   need PEEP titration to allow increase in airspace recruitment.
   -E. Coli seen in sputum and will refine to  narrow coverage following
   LP results and will maintain Vanco/CTX at elevated doses
   3)Hypotension-This has been attributable
   -Vanco/CTX to continue for coverage of likely pulmonary pathogens and
   will narrow coverage with LP completed
 HYPOTENSION (NOT SHOCK)
 .H/O AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 .H/O ALTERED MENTAL STATUS (NOT DELIRIUM)
 .H/O SEIZURE, WITH STATUS EPILEPTICUS
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2105-10-21**] 02:12 AM 30 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2105-10-17**] 09:45 AM
   Multi Lumen - [**2105-10-19**] 06:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2105-10-22 05:32:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   LP attempt yesterday unsuccessful by neurology.  Due to inability to
   obtain CSF for culture and concern for bacterial meningitis,
   antibiotics were changed to Vancomycin, Ceftriaxone, Ampicillin.
   Levophed requirements increased overnight, Propofol has been decreased.
   Telemetry noted to have changed QRS complexes.  12-lead ECG obtained
   and appears to have diffuse ST depressions in V2-V6, ST elevations in
   II, AVL.  Cardiology called.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2105-10-20**] 06:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2105-10-21**] 12:23 PM
   Ceftriaxone - [**2105-10-21**] 05:13 PM
   Vancomycin - [**2105-10-21**] 08:17 PM
   Acyclovir - [**2105-10-22**] 12:10 AM
   Ampicillin - [**2105-10-22**] 02:15 AM
   Infusions:
   Norepinephrine - 0.12 mcg/Kg/min
   Propofol - 60 mcg/Kg/min
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2105-10-21**] 08:33 AM
   Heparin Sodium (Prophylaxis) - [**2105-10-21**] 08:18 PM
   Dilantin - [**2105-10-22**] 02:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2105-10-22**] 05:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.4
C (97.6
   HR: 84 (69 - 87) bpm
   BP: 103/60(70) {79/38(47) - 134/61(79)} mmHg
   RR: 17 (15 - 22) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 78.4 kg (admission): 77.5 kg
   Height: 70 Inch
    CVP: 18 (11 - 29)mmHg
   Total In:
                                                                  3,737 mL
                                                                    562 mL
   PO:
   TF:
                                                                    672 mL
   IVF:
                                                                  3,065 mL
                                                                    562 mL
   Blood products:
   Total out:
                                                                    797 mL
                                                                     98 mL
   Urine:
                                                                    797 mL
                                                                     98 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,940 mL
                                                                    464 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 32 cmH2O
   Plateau: 28 cmH2O
   Compliance: 33.3 cmH2O/mL
   SpO2: 93%
   ABG: ///26/
   Ve: 9.1 L/min
   Physical Examination
   General Appearance: Well nourished white male, sedated
   Eyes / Conjunctiva: PERRL, pupils sluggish but equal and reactive,
   slight erythema above eyelids bilaterally
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: bilaterally on inspiration)
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right: Absent, Left: Absent
   Skin:  Cool and dry, pulses thready.
   Neurologic: Unresponsive, sedated, pupil equal and reactive
   bilaterally, flaccid muscle tone
   Labs / Radiology
   272 K/uL
   12.3 g/dL
   132 mg/dL
   0.8 mg/dL
   26 mEq/L
   4.4 mEq/L
   15 mg/dL
   107 mEq/L
   141 mEq/L
   35.6 %
   12.3 K/uL
        [image002.jpg]
                            [**2105-10-18**]  05:10 PM
                            [**2105-10-18**]  08:51 PM
                            [**2105-10-19**]  03:56 AM
                            [**2105-10-20**]  02:32 AM
                            [**2105-10-20**]  07:43 AM
                            [**2105-10-20**]  04:30 PM
                            [**2105-10-20**]  04:50 PM
                            [**2105-10-20**]  10:00 PM
                            [**2105-10-21**]  04:57 AM
                            [**2105-10-22**]  02:49 AM
   WBC
   8.3
   9.9
   10.9
   12.3
   Hct
   33.6
   33.5
   36.2
   35.6
   Plt
   237
   267
   313
   272
   Cr
   0.7
   0.6
   0.5
   0.7
   0.7
   0.8
   TCO2
   31
   29
   27
   Glucose
   89
   107
   111
   132
   196
   133
   132
   Other labs: PT / PTT / INR:14.1/29.3/1.2, CK / CKMB /
   Troponin-T:62/3/<0.01, ALT / AST:87/88, Alk Phos / T Bili:68/0.5,
   Amylase / Lipase:29/18, Differential-Neuts:77.5 %, Lymph:9.6 %,
   Mono:7.9 %, Eos:4.8 %, Lactic Acid:0.9 mmol/L, LDH:212 IU/L, Ca++:8.2
   mg/dL, Mg++:2.0 mg/dL, PO4:4.6 mg/dL
   Assessment and Plan
   57 yo M with PMH of L MCA in [**2102**] with residual aphasia and R
   hemiparesis who was admitted for status epilepticus and transferred to
   the MICU for respiratory distress.
   1. ECG changes: Discussed with cardiology.  Possible medication effect
   due to multiple anti-epileptic medications, however this was discussed
   with neurologist Dr. [**Last Name (STitle) 3626**] who did not feel that medications would have
   caused this.  Appears currently hemodynamically stable, however
   Levophed requirements have increased while Propofol has decreased.
   Other possible etiologies include ACS and wall motion abnormalities
   leading to cardiogenic shock.
   - TTE today
   - check cardiac enzymes
   - monitor ECGs
   - f/u cardiology consult
   .
   2.  Seizures/status epilepticus: Unknown cause. Concern for infection
   vs. subtherapeutic medications vs. new neurologic event (new stroke).
   Patient on Depakote, Trileptal, Kepra, Phenytoin, and Propofol gtt as
   per neuro recs with Levophed for BP support.  Concern for increasing
   LFTs and triglycerides on propofol.  Neurology unsuccessful with LP
   attempt.  Without CSF to r/o meningitis, will continue to treat and abx
   changed yesterday to cover bacterial meningitis
   - continue abx for bacterial meningitis and acyclovir for viral
   meningitis
   - f/u with neurology regarding propofol and proper seizure management
   - continuous EEG
   - MRI when able per neuron, MRI-compatible leads being placed
   - continue to monitor LFTs & triglycerides with Propofol
   .
   3. Hypoxic Respiratory Failure: Likely multifactorial with aspiration
   PNA and sedation.  Also seizures can be contributing to mental status
   changes and increased risk of aspiration.  CXR and sputum is concerning
   for aspiration and sputum is growing pan-sensitive E. coli.  No
   evidence of PE or CHF.  Blood & urine cultures negative thus far.
   -current antibiotic treatment will cover for E. Coli PNA
   -avoid antibiotics that lower seizure threshold (fluoroquinolones,
   Flagyl)
   -follow BCx, stool for C diff.
   -medication effect- hold standing ativan. Will need to continue all
   anti-seizure medications given status and note these are sedation.
   -suction aggressively
   .
   4. Hypotension.  Concern that propofol is decreasing as Levophed is
   increasing.  Differential for hypotension includes hypovolemic which is
   unlikely given high volume status.  Cardiogenic possible after ECG
   changes and will f/u echo.  Septic shock is possible but pt has been
   afebrile, not bacteremia.  Spinal shock also a possibility given
   seizure activity.
   - continue Levophed to support blood pressure
   - hold further fluid boluses for now given adequate fluid status and
   likely overloaded
   .
   5. h/o stroke: L MCV s/p R hemiparesis and aphasia.
   -continue asa
   .
   6. hyperlipidema: continue statin
   .
   7. FEN: Tube feeds per nutrition recs; maintenance IVF, monitor lytes,
   replete as needed.
   .
   8. PPX: heparin SQ for DVT ppx, bowel reg (pt had BM yesterday), H2
   blocker for GI ppx, VAP bundle.
   .
   9. Dispo: ICU level of care
   .
   10. Code: full code
   .
   11. Communication: Concern from patient
s sister that the patient
s son
   is feeling overwhelmed.  SW & case management consults requested to
   help with family coping & assistance with dispo planning post
   hospitalization.  Plan for family meeting at 5pm today.  Family will be
   contact[**Name (NI) **] to discuss.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2105-10-17**] 09:45 AM
   Multi Lumen - [**2105-10-19**] 06:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2105-10-22 10:46:00 Physician Attending Progress Note
Chief Complaint: Status Epilepticus
   Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   -Patient with some improvement in seizure activity control
   -Patient with evolution of diffuse ST segement depressions in all leads
   on ECG.  This was in the setting of modest increase in dosing needs for
   Levophed but without sudden change in physiology otherwise.  Cardiology
   asked for input immediately upon seeing the sudden change in ECG
   pattern.
   History obtained from Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2105-10-20**] 06:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2105-10-21**] 12:23 PM
   Ceftriaxone - [**2105-10-22**] 07:01 AM
   Vancomycin - [**2105-10-22**] 08:07 AM
   Acyclovir - [**2105-10-22**] 09:32 AM
   Ampicillin - [**2105-10-22**] 10:17 AM
   Infusions:
   Norepinephrine - 0.18 mcg/Kg/min
   Propofol - 40 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2105-10-21**] 08:18 PM
   Dilantin - [**2105-10-22**] 02:15 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2105-10-22**] 10:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.8
C (98.2
   HR: 61 (60 - 89) bpm
   BP: 111/52(66) {68/38(47) - 134/65(79)} mmHg
   RR: 23 (17 - 26) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 78.4 kg (admission): 77.5 kg
   Height: 70 Inch
   CVP: 25 (18 - 29)mmHg
   Total In:
                                                                  3,795 mL
                                                                  2,841 mL
   PO:
   TF:
                                                                    730 mL
                                                                    242 mL
   IVF:
                                                                  3,065 mL
                                                                  2,599 mL
   Blood products:
   Total out:
                                                                    797 mL
                                                                    275 mL
   Urine:
                                                                    797 mL
                                                                    275 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,998 mL
                                                                  2,566 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 9
   PEEP: 12 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 31 cmH2O
   Plateau: 27 cmH2O
   Compliance: 33.3 cmH2O/mL
   SpO2: 96%
   ABG: 7.42/36/75/26/0
   Ve: 11.5 L/min
   PaO2 / FiO2: 188
   Physical Examination
   General Appearance: Overweight / Obese
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Diminished: )
   Skin:  Not assessed
   Neurologic: Responds to: Unresponsive, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   12.3 g/dL
   272 K/uL
   166 mg/dL
   0.8 mg/dL
   26 mEq/L
   4.4 mEq/L
   18 mg/dL
   103 mEq/L
   137 mEq/L
   35.6 %
   12.3 K/uL
        [image002.jpg]
                            [**2105-10-19**]  03:56 AM
                            [**2105-10-20**]  02:32 AM
                            [**2105-10-20**]  07:43 AM
                            [**2105-10-20**]  04:30 PM
                            [**2105-10-20**]  04:50 PM
                            [**2105-10-20**]  10:00 PM
                            [**2105-10-21**]  04:57 AM
                            [**2105-10-22**]  02:49 AM
                            [**2105-10-22**]  07:55 AM
                            [**2105-10-22**]  08:11 AM
   WBC
   8.3
   9.9
   10.9
   12.3
   Hct
   33.6
   33.5
   36.2
   35.6
   Plt
   237
   267
   313
   272
   Cr
   0.6
   0.5
   0.7
   0.7
   0.8
   0.8
   TropT
   0.01
   TCO2
   29
   27
   24
   Glucose
   107
   111
   132
   196
   133
   132
   151
   166
   Other labs: PT / PTT / INR:14.1/29.3/1.2, CK / CKMB /
   Troponin-T:147/4/0.01, ALT / AST:87/88, Alk Phos / T Bili:68/0.5,
   Amylase / Lipase:29/18, Differential-Neuts:77.5 %, Lymph:9.6 %,
   Mono:7.9 %, Eos:4.8 %, Lactic Acid:1.5 mmol/L, LDH:212 IU/L, Ca++:8.0
   mg/dL, Mg++:2.1 mg/dL, PO4:4.9 mg/dL
   Fluid analysis / Other labs: 7.42/36/75
   Assessment and Plan
   75 yo male with admission with status epilepticus now with some
   suggestion of improving control of seizure activity based on neurology
   review of EEG.  What is, however, concerning is that he is
   demonstrating a decreased response to painful simuli.  He has had
   persistent pressor requirement even in the setting of decrease in
   propofol dosing.  In addition he has evolution of significant ECG
   changes in a diffuse, non-anatomic distribution which is concerning for
   a medication effect with iscehmia, primary conduction system disease
   less likely, but ,the medications at their current levels are unlikley
   to contribute to these changes.
   1)
 SEIZURE, WITH STATUS EPILEPTICUS
   -Keppra
   -Depakote
   -Trileptal
   -Dilantin
   -Propofol 60-->40 and with increased TG
s will move to change sedating
   [**Doctor Last Name **] if further decrease in TG
s not seen with further propofol
   decrease
   -Amp/Vanco/CTX/Acyclovir for all possible sources of meningitis with
   inability to obtain LP to fully evaluate possibility of CNS infection.
   -MRI timing to be moved up in timing given both the absence of a clear
   source for his Status Epilepticus and the concerning findings on ECG
   overnight without clear evidence of source now that we have had some
   capacity to stabilize seizure activity.
   2)
 HYPOTENSION (NOT SHOCK)
   -Levophed at 0.18
   -Volume overload is clearly present
   -Wean levophed as possible
   -ECHO today
   -Is likely a combination of aspiration pneumonia, sedating medications
   and possible changes in cardiac output as we have failed to demonstrate
   an improvement in BP with wean of propofol.
   -Will trial 1 liter bolus this morning
   -Doubt spinal shock but is concerning lack of improvement with wean of
   propofol.  Will look to response to IVF bolus and ECHO to categorize
   persistent hypotension.
   3)ECG Changes
ST segment depressions-
   -Will check ECHO today to eval for possible pericardial insult of wall
   motion abnormalities
   -Will cycle CK
   -Will reposition CVL today if CXR shows very poor position although
   this is less likely as a source here
   -Replete lytes although they are normal at first check
   -Would be very atypical for
cerebral T-waves
 but may be a variant if
   all other causes are ruled out
will have to consider move up of timing
   for MRI study if seizures felt to be controlled
   Additional issues to be treated as defined in the housestaff note of
   this date.
 .H/O AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 .H/O ALTERED MENTAL STATUS (NOT DELIRIUM)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2105-10-19**] 06:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 75 minutes